US06468998B1
(S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide (0.5 g) and 2-(3-trifluoromethylphenyl)ethyl p-toluenesulfonate (0.69 g) were reacted under the same conditions as in Example 1. After the same post-treatment as in Example 1, the obtained compound was converted to hydrochloride with 30% hydrochloric acid-isopropanol to give (S)-N-(1-(2-(3-trifluoromethylphenyl)ethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide hydrochloride monohydrate (0.44 g), melting point 160-163° C.

reactant | (S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide | 0.5 g | N1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C15H24N2O
reactant | 2-(3-trifluoromethylphenyl)ethyl p-toluenesulfonate | 0.69 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1=CC(=CC=C1)C(F)(F)F)C | C16H15F3O3S
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid isopropanol | Cl.C(C)(C)O
product | (S)-N-(1-(2-(3-trifluoromethylphenyl)ethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide hydrochloride monohydrate | 0.44 g | O.Cl.FC(C=1C=C(C=CC1)CCN1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2)(F)F | InChI=1S/C24H31F3N2O.ClH.H2O/c25-24(26,27)20-3-1-2-16(11-20)4-6-29-7-5-21(15-29)28-22(30)23-12-17-8-18(13-23)10-19(9-17)14-23;;/h1-3,11,17-19,21H,4-10,12-15H2,(H,28,30);1H;1H2/t17?,18?,19?,21-,23?;;/m0../s1
